US04689171
When 11.7 g of 1,5-diamino-4,8-dihydroxy-3,7-dibromoanthraquinone, compared Example 349a, are used as the anthraquinone component in Example 415a, then 3.9 g, corresponding to 32% of theory, of 1,5-diamino-4,8-dihydroxy-3-phenoxy-7-bromoanthraquinone are obtained quite analogously, the colour shade of which, adsorbed on silica gel, is a blue of Indicator Number 14 (Colour Index Hue Indication Chart).

reactant | 1,5-diamino-4,8-dihydroxy-3,7-dibromoanthraquinone | 11.7 g | NC1=CC(=C(C=2C(C3=C(C=C(C(=C3C(C12)=O)O)Br)N)=O)O)Br | C14H8Br2N2O4
reactant | anthraquinone | C1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H8O2
product | 1,5-diamino-4,8-dihydroxy-3-phenoxy-7-bromoanthraquinone | NC1=CC(=C(C=2C(C3=C(C=C(C(=C3C(C12)=O)O)Br)N)=O)O)OC1=CC=CC=C1 | C20H13BrN2O5
